US09403846B2
Step 3. Synthesis of 2-[(1-cyclopropylbut-3-en-1-yl)oxy]-N-hydroxyethanimine (C17)
[(1-Cyclopropylbut-3-en-1-yl)oxy]acetaldehyde (C16) (3.63 g from the previous step, ≦13.0 mmol) was dissolved in a 2:1 mixture of ethanol and water (39 mL). Sodium acetate (5.32 g, 64.9 mmol) was added; after the reaction mixture had been stirred for 15 minutes, hydroxylamine hydrochloride (98%, 2.76 g, 38.9 mmol) was added. The reaction mixture was heated to 60° C. for 5 minutes, at which time water (4×1 mL) was added until a solution formed. After 1 hour at 60° C., the reaction mixture was cooled, concentrated under reduced pressure to remove ethanol, and diluted with saturated aqueous sodium chloride solution (100 mL). The mixture was extracted with diethyl ether (3×100 mL), and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo at 22° C. Silica gel chromatography (0% to 25% ethyl acetate in heptane) provided the product as a thick, opaque oil. By 1H NMR analysis, this material consisted of a roughly 1:1 mixture of E and Z oxime isomers. Yield: 1.771 g, 10.47 mmol, 81% over two steps. 1H NMR (400 MHz, CDCl3) δ [7.50 (dd, J=5.7, 5.6 Hz) and 6.92-6.99 (m), total 1H], 5.84-5.97 (m, 1H), 5.03-5.15 (m, 2H), {[4.53 (dd, half of ABX pattern, J=16.4, 3.5 Hz) and 4.41 (dd, half of ABX pattern, J=16.4, 3.6 Hz)] and [4.27 (dd, half of ABX pattern, J=12.9, 5.5 Hz) and 4.16 (dd, half of ABX pattern, J=12.9, 5.8 Hz)], total 2H}, 2.65-2.74 (m, 1H), 2.37-2.44 (m, 2H), 0.81-0.91 (m, 1H), 0.59-0.68 (m, 1H), 0.47-0.56 (m, 1H), 0.35-0.44 (m, 1H), 0.07-0.15 (m, 1H).

reactant | [(1-Cyclopropylbut-3-en-1-yl)oxy]acetaldehyde | C1(CC1)C(CC=C)OCC=O | C9H14O2
reactant | Sodium acetate | 64.9 mmol, 5.32 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 38.9 mmol, 2.76 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
solvent | water | 39 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-[(1-cyclopropylbut-3-en-1-yl)oxy]-N-hydroxyethanimine | C1(CC1)C(CC=C)OCC=NO | C9H15NO2
